US20010049441A1
3-(Octahydro-7-indolizinyl)-1-(2-naphthalenesulfonyl)-4-azaindole (12.2 mg, 68.3%);
from 3-(octahydro-7-indolizinyl)-1-H-4-azaindole (10 mg, 0.0415 mmol), 2-naphthalenesulfonyl chloride (17.3 mg, 0.083 mmol) and 1M NaN(TMS)2 (100 μL, 0.10 mmol) in THF (1 mL) at RT.

reactant | 3-(octahydro-7-indolizinyl)-1-H-4-azaindole | 0.0415 mmol, 10 mg | C1CCN2CCC(CC12)C1=CNC2=CC=CN=C12 | C15H19N3
reactant | 2-naphthalenesulfonyl chloride | 0.083 mmol, 17.3 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | NaN(TMS)2 | 0.10 mmol, 1M, 100 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-(Octahydro-7-indolizinyl)-1-(2-naphthalenesulfonyl)-4-azaindole | C1CCN2CCC(CC12)C1=CN(C2=CC=CN=C12)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C25H25N3O2S
